US07145012B2
Preparation of 3-(4-Chloro-phenyl)-2-(2-chloro-phenyl)-5-isopropyl-4,5-dihydro-2H-pyrrolo[3,4-c]pyrazol-6-one (3A-1)
A mixture of 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-4-(isopropylamino-methyl)-1H-pyrazole-3-carboxylic acid I4d (40 mg, 0.074 mmol), EDC (28 mg, 0.148 mmol), HOAt (20 mg, 0.148 mmol), and triethylamine (0.02 ml, 0.148 mmol) in CH2Cl2 (10 ml) was stirred at room temperature for 17 hours. The reaction mixture was washed with sat'd aq NaHCO3, sat'd aq NaCl, dried and concentrated in vacuo. The crude residue was diluted with cyclohexane and stirred for 17 hours. A solid precipitated out of solution and was collected by filtration to give 3A-1 (11 mg, 38%): +APCI MS (M+1) 386.1; 1H NMR (CDCl3) δ 7.50–7.38 (m, 4H), 7.26 (d, 2H, J=9.6 Hz), 7.06 (d, 2H), 4.69 (m, 1H), 1.3 (d, 6H, J=6.65 Hz).

reactant | 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-4-(isopropylamino-methyl)-1H-pyrazole-3-carboxylic acid | ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)CNC(C)C)C(=O)O | C20H19Cl2N3O2
reactant | EDC | 0.148 mmol, 28 mg
reactant | HOAt | 0.148 mmol, 20 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 0.148 mmol, 0.02 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Chloro-phenyl)-2-(2-chloro-phenyl)-5-isopropyl-4,5-dihydro-2H-pyrrolo[3,4-c]pyrazol-6-one | ClC1=CC=C(C=C1)C1=C2C(=NN1C1=C(C=CC=C1)Cl)C(N(C2)C(C)C)=O | C20H17Cl2N3O
